US04495104
In the presence of triethylamine (14.3 ml), 6-(9-chloroformylnonyl)-2,3-dimethoxy-5-methylphenyl acetate (36.9 g) is reacted with 1-morpholino-1-cyclododecene (24.3 g) as in the corresponding step of Reference Example 5. The reaction product is treated with 6N--HCl (47 ml) and the resultant 2-[10-(2-acetoxy-3,4-dimethoxy-6-methylphenyl)decanoyl]cyclododecanone (46.3 g) is hydrolyzed with a 6N-aqueous solution of sodium hydroxide to obtain 32.4 g of 13-oxo-22-(2-hydroxy-3,4-dimethoxy-6-methylphenyl)docosanoic acid, m.p. 63°-64° C.

reactant | 6-(9-chloroformylnonyl)-2,3-dimethoxy-5-methylphenyl acetate | 36.9 g | C(C)(=O)OC1=C(C(=CC(=C1CCCCCCCCCC(=O)Cl)C)OC)OC | C21H31ClO5
reactant | 1-morpholino-1-cyclododecene | 24.3 g | O1CCN(CC1)C1=CCCCCCCCCCC1 | C16H29NO
reactant | HCl | 47 ml | Cl | ClH
reactant | 2-[10-(2-acetoxy-3,4-dimethoxy-6-methylphenyl)decanoyl]cyclododecanone | 46.3 g | C(C)(=O)OC1=C(C(=CC(=C1OC)OC)C)CCCCCCCCCC(=O)C1C(CCCCCCCCCC1)=O | C33H52O6
reactant | sodium hydroxide | [OH-].[Na+]
solvent | triethylamine | 14.3 ml | C(C)N(CC)CC | C6H15N
product | 13-oxo-22-(2-hydroxy-3,4-dimethoxy-6-methylphenyl)docosanoic acid | 32.4 g | O=C(CCCCCCCCCCCC(=O)O)CCCCCCCCCC1=C(C(=C(C=C1C)OC)OC)O | C31H52O6
